US07456169B2
N-(4-chloro-2-methoxyphenyl)pyridin-3-amine
The title compound was prepared by substituting 4-bromopyridine and 2-amino-5-chloroanisole for Example 189A and 4-aminopyridine, respectively, in Example 191. MS (ESI) m/e 235 (M+H)+.

reactant | 4-bromopyridine | BrC1=CC=NC=C1 | C5H4BrN
reactant | 2-amino-5-chloroanisole | NC1=C(C=C(C=C1)Cl)OC | C7H8ClNO
reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
product | N-(4-chloro-2-methoxyphenyl)pyridin-3-amine | ClC1=CC(=C(C=C1)NC=1C=NC=CC1)OC | C12H11ClN2O
